US04210655
18.5 g (0.087 mole) of 4-(5-fluoro-2-benzofuranyl)-pyridine is dissolved in 170 ml of methanol, and the solution is stirred with 57 ml of methyl iodide for 15 hours at 40°-45°. The solution is thereupon cooled to -10°, and the precipitated salt is filtered off with suction. The filter residue is subsequently washed with 100 ml of cold isopropanol. The 1-methyl-4-(5-fluoro-2-benzofuranyl)-pyridinium-iodide thus obtained can be directly further processed.

reactant | 4-(5-fluoro-2-benzofuranyl)-pyridine | 0.087 mole, 18.5 g | FC=1C=CC2=C(C=C(O2)C2=CC=NC=C2)C1 | C13H8FNO
reactant | methyl iodide | 57 ml | CI | CH3I
solvent | methanol | 170 ml | CO | CH4O
product | 1-methyl-4-(5-fluoro-2-benzofuranyl)-pyridinium-iodide | [I-].C[N+]1=CC=C(C=C1)C=1OC2=C(C1)C=C(C=C2)F | InChI=1S/C14H11FNO.HI/c1-16-6-4-10(5-7-16)14-9-11-8-12(15)2-3-13(11)17-14;/h2-9H,1H3;1H/q+1;/p-1
